US08486984B2
5.2 N-(6-Amino-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl)-propionamide
A solution of 5-aminomethyl-5,6,7,8-tetrahydro-naphthalen-2-ylamine×2 HCl (500 mg, 2.01 mmol) in water (90 ml) was adjusted to pH=11.25 by adding aqueous NaOH (0.5M). Then propionic acid anhydride (290 mg, 2.21 mmol) was added slowly while maintaining the pH in a range from 11.2 to 11.3 by simultaneously adding aqueous NaOH (0.5M). After complete addition the mixture was adjusted to pH=2.5 with aqueous HCl (1N) and evaporated under reduced pressure. The residue was dissolved in water, and washed twice with ethyl acetate. After addition of aqueous ammonia the aqueous layer was extracted three times with dichloromethane. The combined dichloromethane layers were dried over MgSO4, and evaporated under reduced pressure to give the product as a yellow resin (320 mg, 68%).

reactant | 5-aminomethyl-5,6,7,8-tetrahydro-naphthalen-2-ylamine | NCC1C=2C=CC(=CC2CCC1)N | C11H16N2
reactant | HCl | 2.01 mmol, 500 mg | Cl | ClH
reactant | NaOH | 0.5M | [OH-].[Na+]
reactant | propionic acid anhydride | 2.21 mmol, 290 mg | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | NaOH | 0.5M | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | water | 90 ml | O | H2O
product | N-(6-Amino-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl)-propionamide | 320 mg, 68% | NC=1C=C2CCCC(C2=CC1)CNC(CC)=O | C14H20N2O
